US04501747
A solution of 0.015 mol of 2-(2-guanidinothiazol-4-ylmethylthio)ethylamine, 0.015 mol of 4-nitrophenyl 3-methanesulfonamidobenzoate (m.p. 162°-164° C., prepared from 3-methanesulfonamidobenzoic acid and 4-nitrophenol in methylene chloride in the presence of dicyclohexylcarbodiimide) and 0.035 mol of triethylamine in 150 ml of methanol is heated at 40° C. under stirring for 4 hours. Then the solvent is evaporated under reduced pressure and the residue is taken up with 20 ml of water and 100 ml of ethyl acetate. The organic phase is dried on anhydrous sodium sulfate, the solvent is evaporated under reduced pressure and the residue is dissolved in 50 ml of warm ethyl acetate. The solution is filtered and the filtrate is acidified with hydrogen chloride in isopropanol. Thus, 3-methanesulfonamido-N-[2-(2-guanidinothiazol-4-ylmethylthio)ethyl]benzamide hydrochloride is obtained, which, after crystallization from 20 ml of water gives 2 g of the monohydrate, SR 57938 A; m.p. 117°-120° C.

reactant | 2-(2-guanidinothiazol-4-ylmethylthio)ethylamine | 0.015 mol | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | 4-nitrophenyl 3-methanesulfonamidobenzoate | 0.015 mol | CS(=O)(=O)NC=1C=C(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C14H12N2O6S
reactant | 3-methanesulfonamidobenzoic acid | CS(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C8H9NO4S
reactant | 4-nitrophenol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | triethylamine | 0.035 mol | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | 150 ml | CO | CH4O
product | 3-methanesulfonamido-N-[2-(2-guanidinothiazol-4-ylmethylthio)ethyl]benzamide hydrochloride | Cl.CS(=O)(=O)NC=1C=C(C(=O)NCCSCC=2N=C(SC2)NC(=N)N)C=CC1 | InChI=1S/C15H20N6O3S3.ClH/c1-27(23,24)21-11-4-2-3-10(7-11)13(22)18-5-6-25-8-12-9-26-15(19-12)20-14(16)17;/h2-4,7,9,21H,5-6,8H2,1H3,(H,18,22)(H4,16,17,19,20);1H
